US04782050
1. 2-acetoxymethylbenzimidazole
A mixture of 1.0 g of 2-hydroxymethylbenzimidazole and 0.64 ml of acetic anhydride in 10 ml of acetic acid was heated to reflux for 1 hour. The solvent was removed in vacuo and the residue dissolved in chloroform and washed with a sodium bicarbonate solution. The organic layer was separated, dried and concentrated to give 1.2 g of the desired intermediate.

reactant | 2-hydroxymethylbenzimidazole | 1.0 g | OCC=1NC2=C(N1)C=CC=C2 | C8H8N2O
reactant | acetic anhydride | 0.64 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-acetoxymethylbenzimidazole | 1.2 g | C(C)(=O)OCC=1NC2=C(N1)C=CC=C2 | C10H10N2O2
